US09376454B2
Step 2. Synthesis of (R)-2-Hydroxy-3-[(oxazole-5-carbonyl)-amino]-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Aluminum chloride (0.132 g, 0.990 mmol) was added to a solution of 2-Methoxy-3-[2-[(oxazole-5-carbonyl)-amino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-benzoic acid tert-butyl ester (0.064 g, 0.122 mmol) in CH2Cl2 (3.0 mL). The reaction was stirred at room temperature for 16 hr. The reaction was quenched with H2O and CH3OH and extracted with hexane (2×). The crude product remained in the aqueous layer and was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 303 (MH)+.

reactant | Aluminum chloride | 0.990 mmol, 0.132 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-Methoxy-3-[2-[(oxazole-5-carbonyl)-amino]-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-benzoic acid tert-butyl ester | 0.122 mmol, 0.064 g | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(=O)C3=CN=CO3)OC)=O | C28H37BN2O7
solvent | CH2Cl2 | 3.0 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-Hydroxy-3-[(oxazole-5-carbonyl)-amino]-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | OB1OC2=C(C[C@@H]1NC(=O)C1=CN=CO1)C=CC=C2C(=O)O | C13H11BN2O6
